US09023847B2
91. 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 1-BOC-3-aminopiperidine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 442 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.52 (1H, br. s.) 10.27 (1H, br. s.) 8.02 (1H, d, J=5.47 Hz) 7.87 (1H, d, J=8.20 Hz) 7.80 (1H, d, J=5.37 Hz) 7.47 (1H, d, J=5.47 Hz) 7.31 (1H, dd, J=3.32, 2.54 Hz) 6.80 (1H, d, J=5.47 Hz) 6.44 (1H, dd, J=3.42, 1.76 Hz) 3.79 (3H, dd, J=6.78, 3.17 Hz) 2.76 (1H, t, J=12.45 Hz) 1.83 (1H, dd, J=12.93, 3.27 Hz) 1.65 (1H, dd, J=8.69, 3.22 Hz) 1.52 (1H, dd, J=11.76, 3.95 Hz) 1.37 (9H, s)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 1-BOC-3-aminopiperidine | C(=O)(OC(C)(C)C)N1CC(CCC1)N | C10H20N2O2
product | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CCC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C22H27N5O3S
